Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: CARDIOTHORACIC
 
Allergies: 
morphine
 
Attending: ___
 
Chief Complaint:
recurrent chest pain
 
Major Surgical or Invasive Procedure:
cardiac cath: ___
.
___ Coronary Artery bypass Grafting x 2 (LIMA-LAD, SVG-RCA), 
Valve-sparing aortic root replacement (30mm Valsalva graft), 
MAZE procedure, ___ ligation

 
History of Present Illness:
Mr. ___ is a ___ old male with end-stage
renal disease, paroxysmal atrial fibrillation off of
anticoagulation, recurrent DVTs, and recently abnormal screening
coronary CT who is presenting with recurrent chest pains.

Over the last 1 to 2 weeks, the patient has been having
left-sided chest pains.  He thinks they are sometimes associated
with an irregular heart rhythm, but sometimes they are not.  He
thinks the chest pains may be worse when lying flat.  At times
the chest pains wake him up from sleep.  We will have basic labs
he has not been active recently as he just had a foreign body
removed from the dorsum of his foot and is now on crutches. 
However, he does not note any particular significance in chest
pain severity when he is active.

He notes no issues with medications.  His chest pain is also
associated with some shortness of breath.

Beyond issues noted above, Mr. ___ denies any worsening
dyspnea, palpitations, syncope, claudication-type symptoms or
transient neurologic issues.  All other ROS negative.

 
Past Medical History:
1. ESRD due to compartment syndrome/?rhabodmyolysis ___, now
on ___ HD since ___ via right AVF (s/p 2 stents)
2. 3-vessel CAD diagnosed by CTA, most severe in the RCA and OM1
3. Ostial LAD aneurysm, aortic root aneurysm at the sinus of
Valsalva
4. Paroxysmal Atrial fibrillation - paroxysmal, diagnosed in
___, currently not on anticoagulation due to GI bleeding
5. Moderate aortic regurgitation
6. Prior DVTs
7. Adrenal insufficiency ___ bilateral adrenalectomy for
bilateral adrenal hyperplasia now on hydrocortisone and
fludrocortisone
8. Hypertension
 
Social History:
___
Family History:
Parents both have hypertension. Brother had MI at age ___ and ___ 
but was smoker. Father had atrial fibrillation, no SCD. 
 
Physical Exam:
ADMISSION PE:
Vitals:
BP: 127/75
Heart Rate: 60
O2 Saturation%: 96
Weight: 243.4 (With Clothes; With Shoes)
Weight: 243.41 lbs
Appears comfortable.  Mood and affect appropriate.  JVP 6 cm and
falls upon inspiration.  No carotid bruits. No thyromegaly.
Regular rhythm, normal S1 and normally-split S2.  No S3/4 or
pathological murmurs. Clear lungs. Soft, nontender abdomen
without hepatomegaly.  No pedal edema.  Symmetric pedal pulses,
no brachiofemoral delay.  Dorsum of left foot with prior 
incision
site for foreign body removal with no surrounding erythema,
induration, or pus.

EKG: Sinus bradycardia ___elay with no significant
interval or ST abnormalities.  

Discharge Exam: expired
 
Pertinent Results:
Echo ___
CONCLUSION:
The left atrial volume index is SEVERELY increased. The right 
atrium is moderately enlarged. There is no
evidence for an atrial septal defect by 2D/color Doppler. The 
estimated right atrial pressure is ___ mmHg.
There is moderate symmetric left ventricular hypertrophy with a 
SEVERELY increased/dilated cavity. There is
suboptimal image quality to assess regional left ventricular 
function. Overall left ventricular systolic function is
normal. Quantitative biplane left ventricular ejection fraction 
is 60 % (normal 54-73%). There is no
resting left ventricular outflow tract gradient. Normal right 
ventricular cavity size with normal free wall motion.
Tricuspid annular plane systolic excursion (TAPSE) is normal. 
The aortic sinus is moderately dilated with
moderately dilated ascending aorta. The aortic arch is mildly 
dilated with a mildly dilated descending aorta.
The aortic valve leaflets (?#) are mildly thickened. There is no 
aortic valve stenosis. There is at least
moderate [2+] aortic regurgitation. The mitral valve leaflets 
appear structurally normal with no mitral valve
prolapse. There is trivial mitral regurgitation. The pulmonic 
valve leaflets are normal. The tricuspid valve
leaflets appear structurally normal. There is physiologic 
tricuspid regurgitation. The pulmonary artery systolic
pressure could not be estimated. There is a small pericardial 
effusion. There are no 2D or Doppler
echocardiographic evidence of tamponade.
IMPRESSION: Suboptimal image quality. Moderately dilated 
ascending aorta. At least moderate
aortic regurgitation. Severely dilated left ventricle.
.
Carotid Ultrasound
IMPRESSION:  
  
Right ICA <40%  stenosis. 
Left ICA <40%  stenosis. 
.

 
Brief Hospital Course:
Course on the medicine service ___
In summary, Mr. ___ is a ___ year old male with adrenal
insufficiency due to bilateral adrenalectomy for bilateral
adrenal hyperplasia, paroxysmal atrial fibrillation off
anticoagulation, recurrent DVT's (and possible history of HIT)
who was admitted for progressive, stuttering chest pain over two
weeks. Coronary angiogram (___) revealed multi-vessel CAD.

# Multi-vessel coronary artery disease
The patient presented with progressive, stuttering atypical 
chest
pain, with coronary angiogram demonstrating multi-vessel 
coronary
artery disease (aneurysmal proximal LAD + 70% lesion; 60% RCA
lesion). No acute culprit lesion that clearly explains the new
chest pain, though his syndrome could certainly be related to 
his underlying obstructive CAD. Of note, TTE demonstrated LVEF
60%, but severely dilated ___ 7.6cm) with 5.2cm asc. aorta and
moderate aortic insufficiency. Carotis showed <40% stenosis of
bilateral ICAs. Plan for surgical revascularization (+ AR
replacement and AVR) on ___.
- Aspirin 81mg daily
- Atorvastatin 80mg daily
- Continue home propranolol (pt. does not want to be 
transitioned
to more robust BP med e.g. carvedilol)
- Goal HR 60-70's, Goal SBP<130
- Start nitroglycerin drip PRN for chest pain.
- Continue to hold plavix
- Plan for surgical revascularization later this week (+ aortic
root replacement/AVR)
- **He will require stress dose steroids prior to OR given
adrenal insufficiency --> will coordinate with CT surgery**

# Aortopathy with aortic insufficiency
He has an aortic root aneurysm (5.2cm) and moderate AR per
report. 
- Surgery ___

# Paroxysmal atrial fibrillation
Not anticoagulated given history of bleed. Briefly flipped in
afib while on HD, now back in sinus rhythm
- Readdress post surgery

# History of ?HIT 
Given concern for prior ?HIT, consulted hematology as patient
will require anticoagulation during cardiopulmonary bypass.-
Appreciate hematology recommendations.

# ESRD 
-Continue scheduled HD
=
=
=
=
=
=
=
=
=
=
=
=
=
=
=
=
=
=
================================================================
Course on Cardiac Surgery service ___

The patient was brought to the Operating Room on ___ where 
he underwent CABG x 2, valve sparing Aortic Root replacement, 
Maze, ___ ligation with Dr. ___.  
Initially, had only LIMA-LAD graft, but noted to have
RV dysfunction coming off CPB and had RCA graft placed. Course 
was still complicated coming off CPB with cardiogenic shock, 
vasoplegia, bleeding, as well as episodes of Vfib. Was left with 
open chest and taken to the ICU. Hyperkalemic, started on CVVH 
through left groin vascath. Ventricular fibrillation on arrival 
requiring shock and amiodarone. On milrinone for RV support, 
multiple pressors and pacing in vasoplegic and cardiogenic 
shock. Lactate continued to rise.
TEE performed which revealed severe RV failure with preserved LV 
function.  
RVAD placed at bedside by Dr. ___.  Continued to require 
significant support. 
Lactate continued to rise- up to 15mmol/L. ACS consulted for 
consideration of ex-lap.
Family present at bedside. On discussion among family, 
Intensivist team, Dr. ___, Heart Failure- family 
declined ex-lap. Decision made to invoke comfort measures. Mr. 
___ expired at 16:49 with his family by his bedside.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Fludrocortisone Acetate 0.2 mg PO QAM 
2. Hydrocortisone 20 mg PO QAM 
3. Pregabalin 100 mg PO BID 
4. Propranolol 80 mg PO BID 
5. CloNIDine 0.2 mg PO BID 
6. Amiodarone 200 mg PO QAM 
7. Multivitamins 1 TAB PO QAM 
8. rOPINIRole 1 mg PO QPM 
9. ValACYclovir 500 mg PO QAM 
10. melatonin 10 mg oral QHS:PRN 
11. sevelamer CARBONATE 2400 mg PO TID W/MEALS 
12. Clopidogrel 75 mg PO QAM 
13. Pantoprazole 40 mg PO BID 
14. Cephalexin 500 mg PO Q12H 
15. Hydrocortisone 10 mg PO QPM 
16. Docusate Sodium 200 mg PO BID 

 
Discharge Medications:
none
 
Discharge Disposition:
Expired
 
Discharge Diagnosis:
Coronary Artery Disease
Aortic Insufficiency
Aortic Root Aneurysm
Hyperkalemia
Cardiogenic Shock
RV failure
ESRD, on HD 
History of DVTs and PE
HITT
Paroxysmal Atrial fibrillation  
Moderate aortic regurgitation. 
Adrenal insufficiency ___ bilateral adrenalectomy for bilateral
adrenal hyperplasia now on hydrocortisone and fludrocortisone. 
LLE compartment syndrome s/p adrenal surgery
Hypertension
Esophageal varices while on prednisone

 
Discharge Condition:
expired
 
Discharge Instructions:
none
 
Followup Instructions:
___